US08211924B2
Preparation of 2-[1-(2,3-dichlorophenyl)-2-(3,5-dimethylphenyl)ethylimino]-thiazolidine-3-carbothioic acid (3-trifluoromethylphenyl)amide (compound 4)
A solution of 1-(4,5-dihydrothiazol-2-yl)amino-1-(2,3-dichlorophenyl)-2-(3,5-dimethylphenyl)-ethane (0.25 g) in chloroform (10 ml) was treated with 1-isothiocyanato-3-trifluoromethylbenzene (0.13 g) at room temperature overnight. The solvent was evaporated in vacuo and the remainder was purified by column chromatography to yield 0.20 g of the title compound.

reactant | 1-(4,5-dihydrothiazol-2-yl)amino-1-(2,3-dichlorophenyl)-2-(3,5-dimethylphenyl)-ethane | 0.25 g | S1C(=NCC1)NC(CC1=CC(=CC(=C1)C)C)C1=C(C(=CC=C1)Cl)Cl | C19H20Cl2N2S
reactant | 1-isothiocyanato-3-trifluoromethylbenzene | 0.13 g | N(=C=S)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(2,3-dichlorophenyl)-2-(3,5-dimethylphenyl)ethylimino]-thiazolidine-3-carbothioic acid (3-trifluoromethylphenyl)amide | 0.20 g | FC(C=1C=C(C=CC1)NC(=S)N1C(SCC1)=NC(CC1=CC(=CC(=C1)C)C)C1=C(C(=CC=C1)Cl)Cl)(F)F | C27H24Cl2F3N3S2
